US05843957
Preparation of N-[1-butyl-4-{3-(2-acetoxyethoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a solution of N-(1-butyl-4-(3-hydroxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl)-N'-(2,6-diisopropylphenyl)urea (300 mg, 0.59 mmol) in DMF (10 ml) was added sodium hydride (NaH, 23 mg, 0.59 mmol), and the mixture was stirred at room temperature for 0.5 hour. To the mixture was added 2-bromoethyl acetate (98 mg, 0.59 mmol), and the mixture was stirred at 40°-50° C. for 6 hours. After allowed to stand for cooling, the mixture was poured into water, extracted with ethyl acetate, and the extract was washed with water, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The residue was concentrated under reduced pressure, and purified by silica gel column chromatography (3% methanol in chloroform) to give the title compound (209 mg, 0.35 mmol) as a colorless powder.

reactant | N-(1-butyl-4-(3-hydroxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl)-N'-(2,6-diisopropylphenyl)urea | 0.59 mmol, 300 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)O)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C31H36N4O3
reactant | sodium hydride | 0.59 mmol, 23 mg | [H-].[Na+]
reactant | 2-bromoethyl acetate | 0.59 mmol, 98 mg | C(C)(=O)OCCBr | C4H7BrO2
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-[1-butyl-4-{3-(2-acetoxyethoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.35 mmol, 209 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCCOC(C)=O)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C35H42N4O5
